US04510141
using 8.91 g (0.033 mol) of 1-(2-chloro-3-pyridyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid and 20.90 g (0.164 mol) of p-chloroaniline there is obtained 5-(4-chlorophenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid and the methyl ester thereof which, after recrystallisation from methylene chloride/ethyl acetate, melts at 234°-237° with decomposition;

reactant | 1-(2-chloro-3-pyridyl)-5-(chloromethyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.033 mol, 8.91 g | ClC1=NC=CC=C1N1N=C(N=C1CCl)C(=O)O | C9H6Cl2N4O2
reactant | p-chloroaniline | 0.164 mol, 20.90 g | ClC1=CC=C(N)C=C1 | C6H6ClN
product | 5-(4-chlorophenyl)-4,5-dihydropyrido[2,3-e][1,2,4]triazolo[1,5-a]pyrazine-2-carboxylic acid | ClC1=CC=C(C=C1)N1CC=2N(C3=C1N=CC=C3)N=C(N2)C(=O)O | C15H10ClN5O2
